US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-pyridin-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline
Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.773 g, 3.53 mmol) and 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-pyridin-2-ylsulfonylpropan-2-yl)pyrimidine (1.4 g, 3.53 mmol) were suspended in a mixture of DME (10 mL), ethanol (10.00 mL), DMF (10.00 mL) and water (10 mL) at RT under nitrogen. The mixture was purged with nitrogen and bis(triphenylphosphine)palladium(II) chloride (0.124 g, 0.18 mmol) was added. The resulting suspension was stirred at 80° C. for 90 minutes under an atmosphere of nitrogen. The reaction mixture was concentrated and diluted with ethyl acetate (150 mL), and washed with water (2×150 mL) and saturated brine (100 mL). The organic layer was dried (MgSO4), filtered and evaporated to afford the crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 40% ethyl acetate in DCM, to give the desired material as a yellow foam (1.210 g).

reactant | aniline | 3.53 mmol, 0.773 g | NC1=CC=CC=C1 | C6H7N
reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-pyridin-2-ylsulfonylpropan-2-yl)pyrimidine | 3.53 mmol, 1.4 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C1=NC=CC=C1 | C17H21ClN4O3S
reactant | ethanol | 10.00 mL | C(C)O | C2H6O
reactant | DMF | 10.00 mL | CN(C)C=O | C3H7NO
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.18 mmol, 0.124 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 mL | O | H2O
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-pyridin-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | 1.210 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C1=NC=CC=C1)C1=CC=C(N)C=C1 | C23H27N5O3S
